* DLYF_1V8 -- falling-edge delay / rising passthrough
* AutoHV BiCMOS 180 PDK | 1.8 V domain (NMOS18/PMOS18, L = 0.18 um)
* ~20 ns delay at the nominal corner (case=0/TT, nominal Vdd, 27 C).
* Methodology, area and PVT/Monte-Carlo envelope: ../REPORT.md, ../CHARACTERIZATION.md.
*
* Port order:  in  out  vdd  gnd
* The calling deck must also include the PDK device library, e.g.:
*   .include "<repo-root>/autohv_bicmos180_case.lib"
*   .include "<this-dir>/DLYF_1V8.lib"
*   X1 a y vdd 0 DLYF_1V8
*
* When several RC cells share one transient deck, add `.option method=gear maxord=2`.

.subckt DLYF_1V8 in out vdd gnd
XI1 nIN in vdd vdd PMOS18 W=0.7u L=0.18u
XI2 nIN in gnd gnd NMOS18 W=0.3u L=0.18u
XR  nIN nC RPOLY_HI L=53.7500u W=0.5u
XC  nC  gnd CMIM_HI L=5.3600u W=5.3600u
XBP nC in gnd gnd NMOS18 W=0.6u L=0.18u   $ pull-down bypass (fast rising out)
XS1 s1 nC gnd gnd NMOS18 W=0.3u L=0.18u
XS2 out nC s1 gnd NMOS18 W=0.3u L=0.18u
XS3 s2 nC vdd vdd PMOS18 W=0.7u L=0.18u
XS4 out nC s2 vdd PMOS18 W=0.7u L=0.18u
XS5 vdd out s1 gnd NMOS18 W=0.3u L=0.18u
XS6 gnd out s2 vdd PMOS18 W=0.7u L=0.18u
.ends DLYF_1V8
